Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Mood swings"

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year-old-female with a past psychiatric
diagnosis of bipolar disorder and three prior psychiatric
hospitalizations who self-presents to the ED reporting 
depression
and SI with plan.

Per Dr. ___ ___ ED Initial Psychiatry Consult note:

"On interview, she describes feeling depressed, and she states
that while she has been feeling depressed for several months 
with
intermittent SI, and often feels worse around her period, which
she currently has, she feels much worse than usual and has
developed a specific plan for suicide (jumping in front of a
train), which is unusual for her and she finds very frightening.
She is afraid she might act on the plan and reports feeling "out
of control of my own mind." She reports impaired sleep, being
unable to sleep at night and instead sleeping from 8 AM - 1 ___,
and feeling fatigued. She also reports racing thoughts and
feeling "flooded with ideas". She notes impaired concentration
and memory, noting her friends will comment that she has
forgotten conversations they had the previous day. She reports
inability to function normally at her job due to her impaired
concentration. She endorses feeling hopeless and at times 
feeling
worthless, though also notes at times she feels somewhat
grandiose. She also reports labile mood, though states that for
the most part she feels depressed. She also reports feeling
"paranoid" but that she does not want to discuss it further as 
it
has to do with family issues that she does not want to discuss 
at
this time. 

She reports that she has taken medications in the past while
hospitalized, Abilify and Prozac, but that she has not ever 
taken
them as an outpatient because one of her friends told her that
medications can make things worse. She notes that she currently
is willing to take medications and intends to follow up with any
outpatient providers she is referred to moving forwards because
life is too difficult for her off of medications and she does 
not
feel she is functioning well off of them. 

On further psych ROS, she denies AH, VH, IOR, thought
broadcasting or insertion. She reports a history of discrete
manic episodes, and states that her last one was in ___ 
lasting
7 days during which she experienced increased creativity and
productivity and notes that she slept better than usual. She 
also
reports impulsive decisions, such as at one time when manic
impulsively deciding to move to ___, where she ended up
becoming hospitalized. She denies currently feeling "manic"
stating that the way she feels now is how she feels when she is
depressed. She denies self-injurious behavior (did cut once at
age ___ but not since), denies eating disorder symptoms, and
denies symptoms of PTSD."

In the ED, the patient was in calm behavioral control with no
physical or chemical restraints required. She was not
administered any medications. 

On interview today, patient endorses much of the HPI above. She
denies any acute safety concerns. She confirms that she is
amenable to psychiatric hospitalization and initiation of
psychiatric medications. 

PAST PSYCHIATRIC HISTORY:
 Hospitalizations: Reports three prior, earliest at age ___ at
___, ___. ___ in ___ in ___, ___ in ___ 
 Past diagnoses: Bipolar disorder
 Medication and ECT trials: Abilify, Prozac, also Zyprexa per 
___
records and Seroquel for sleep. 
 Current treaters and treatment: No current providers. Did see 
an
individual therapist for ___ years through Home for Little
Wanderers and briefly attended family therapy due to issues with
her brother at home, ___, last saw in ___, was
referred to another provider but never followed up  
 Suicide attempts: Reports she has never attempted due to being
"scared of going to hell"
 Self-injury: Cut her wrist at age ___, lead to a psych
hospitalization at ___, states she has not cut since
 Trauma: Denies, however does note a history of family
dysfunction for which her family received family therapy through
Home for ___
 Harm to others: denies
 Access to weapons: denies

 
Past Medical History:
Anemia (not currently taking iron supplements, though believes
she should be) 
Hx of head injury per ___ records, patient did not disclose this
during our interview. Pt denied any hx of TBI or SZs during the 
initial interview on the unit.
 
Social History:
___
Family History:
Psychiatric illness: Denies being aware of any formal diagnoses
in her family
Suicide: Denies
Substance Abuse: Denies

 
Physical Exam:
VITAL SIGNS:
T: 98.0 , HR: 90 , BP: 90/65 , RR: 16 , SpO2 100% on RA

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Mental Status:
-Appearance: petite woman appearing slightly younger than stated
age, dressed in hospital gown, appropriate hygiene
-Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: friendly, cooperative with interview, appropriately
tired given time of interview
-Mood: "Depressed"
-Affect: Congruent with mood, appropriate to situation
-Speech: Soft spoken, otherwise Normal rate and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content: SI w/ plan per HPI, no HI, no AVH, does not
appear internally preoccupied
-Insight: Limited
-Judgment: Fair

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: ___ , ___ , "Trump" - president 
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "The grass is well trimmed on the other side"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
 
Pertinent Results:
___ 06:40PM BLOOD WBC-4.3 RBC-4.31 Hgb-11.4 Hct-35.3 MCV-82 
MCH-26.5 MCHC-32.3 RDW-14.3 RDWSD-42.1 Plt ___
___ 06:40PM BLOOD Neuts-40.3 ___ Monos-6.8 Eos-1.9 
Baso-0.9 Im ___ AbsNeut-1.73 AbsLymp-2.14 AbsMono-0.29 
AbsEos-0.08 AbsBaso-0.04
___ 06:40PM BLOOD Glucose-99 UreaN-8 Creat-0.6 Na-139 K-3.9 
Cl-104 HCO3-26 AnGap-9*
___ 06:40AM BLOOD Triglyc-36 HDL-59 CHOL/HD-3.1 LDLcalc-114
___ 06:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
In initial personal interview on the unit, pt reported to deal 
with depression and
suicidal ideations. She reported disrupted sleep. She c/o severe 
mood swings. She admitted she had thoughts to kill herself "to 
end pain" of mood swings. She also reported to have episodes of 
racing thoughts and increased energy. She shared that she was 
diagnosed with BPAD type 2. Looking back, she started to have 
problems with mood since age ___. Denied any hx of experiences 
suggestive for psychosis. Re. PMH, she denied hx of SZ, denied 
TBI. Reported hx of anemia "with low iron". She denied any 
pain/N/V/D/C.
On exam, short statured thin high strung ___ woman. Alert, 
friendly, cooperative with interview. No sx's of psychosis. 
Reflective. In summary, her clinical presentation was consistent 
with anxious-depressive syndrome with dysphoric affect.
IMP: Bipolar dos, currently depressed vs mixed state. Upon 
presentation, pt required
inpt level of care ___ risk for self.

# Legal/Safety:
-Ms. ___ signed CV, it was accepted on ___
-She remained on 15 ___ checks (level of supervision)
-Sharps status: Green (access to sharps with supervision)
-She remained unit restricted. She was not eligible for access 
to the outdoors based on significant depression and recent 
suicidal ideations.

# Psychiatric:
-To address anxiety and insomnia sx's, Hydroxyzine 25 mg Q6H:PRN 
was started
Ms. ___ continued to experience insomnia and anxiety. Hence, 
Seroquel in low dose was ooffered. Ms. ___ accepted Seroquel 
12.5mg po BID PRN anxiety.
-After discussion of risks and benefits, Ms. ___ accepted 
Lamictal 25mg daily. She tolerated medication quite well. that 
medication was chosen to address depression in the context of 
Bipolar disorder. Also, side effects profile was considered.
-I discussed the indications for, intended benefits of, and 
possible side effects and risks of Lamictal, Hydroxyzine and 
Seroquel. Discussed risks and benefits of possible alternatives, 
including not taking the medication, with this patient.  We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team, and I answered the 
patient's questions.  The patient appeared able to understand 
and consented to continue and
to adjust the medication to clinical response.
Ms. ___ agreed with ___ trial.
-Pt was also provided with written info about Bipolar dos. She 
is
interested to learn more about her condition.

# Medical
No acute issues

# Social Work/Dispo:
-Didn't have outpatient psychiatrist prior to this hospital 
admission, she needed to
establish care
-Continue to reinforce patient's understanding of current 
treatment
-On several occasions during this hospital admission, inpatient 
team offered to Ms. ___ to have a family meeting. She did 
not wish to involve her parents during this admission, stating 
that she does not currently have a good relationship with them 
but that she will work on improving this relationship once her 
mood is stable on medications.

On ___, Ms. ___ reported to feel "bored on the unit". 
She reported that she is feeling ready for the discharge. Being 
started on medicine and being in the milieu of the psychiatric 
unit was helpful ___ helped her "to balance" her mood. She 
reports that she would like to get back to work. She expressed 
interest in outpatient psychiatric treatment.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself in the context of depression 
and S/I. During hospitalization, patient's sx's of depression 
improved with treatment. Also, she benefited from 
psychoeducation and skills oriented therapy approaches. She 
participated in groups discussing coping skills. She was set up 
with outpatient follow up. She consistently denied depression or 
SI. Finally, the patient is being discharged with many 
protective risk factors, including female gender, no prior 
suicide attempts, no 
chronic substance abuse, no SI, outpatient follow up, 
employment, and social support. Overall, based on the totality 
of our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others.

Our prognosis is guarded. If Ms. ___ succeeds to connect 
with outpatient treatment providers and continues her 
medications as recommended, her prognosis is likely to improve.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO QHS 
RX *lamotrigine [Lamictal] 25 mg one tablet(s) by mouth at 
bedtime Disp #*15 Tablet Refills:*0 
2.  QUEtiapine Fumarate 25 mg PO QHS 
RX *quetiapine 25 mg one tablet(s) by mouth at bedtime. Can take 
additional half tablet daily PRN anxiety Disp #*20 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar disorder, currently depressed.

 
Discharge Condition:
___ yo alert, short statured, friendly person, NAD, no facial 
asymmetry. Unremarkable motor activity, unremarkable and steady 
gait. Casually dressed and well groomed. Friendly. Described 
mood as 'I feel balanced now'. She clearly denied S/H/I. Reports 
that she feels better now. She shared about positive plans for 
future.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___